US06995263B2
d] (4-{2-[2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-indol-1-yl)-acetic acid
In analogy to the procedure described in example 5 g], (4-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-indol-1-yl)-acetic acid ethyl ester was treated with LiOH to obtain the title compound as white solid.

reactant | (4-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC2=C(C=CC=C12)OCCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C27H25F3N2O3
reactant | LiOH | [Li+].[OH-]
product | (4-{2-[2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-indol-1-yl)-acetic acid | CC1=NC(=CC=C1CCOC1=C2C=CN(C2=CC=C1)CC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C25H21F3N2O3
